US07670512B2
Synthesis of 2,5-bis[(2-cyanoethyl)sulfanyl]-N-(p-hydroxybenzoyl)-N′-(p-nitrobenzoyl)-p-phenylenediamine
2,5-Bis[(2-cyanoethyl)sulfanyl]-N-(4-nitrobenzoyl)-1,4-phenylenediamine (1.0 g, 2.34 mmol) as prepared from the above Example 1 was admixed with 4-hydroxybenzoic acid (0.328 g, 2.38 mmol) in 11.7 mL NMP under nitrogen purge, followed by addition of lithium chloride (LiCl, 0.58 g), triphenylphosphite (TPP, 2.92 mL) and pyridine (2.92 mL). The resultant mixture was heated to a temperature of 80˜95° C. for about 4 h, followed by cooling to room temperature. 400 mL of water was subsequently added with stirring for a few minutes, and the resultant precipitate was collected by filtration, washed with water (400 mL, twice) and methanol (400 mL, once), followed by drying at room temperature under vacuum overnight, giving the title compound in a yield of 76.3%.

reactant | 2,5-Bis[(2-cyanoethyl)sulfanyl]-N-(4-nitrobenzoyl)-1,4-phenylenediamine | 2.34 mmol, 1.0 g | C(#N)CCSC1=C(C=C(C(=C1)N)SCCC#N)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H17N5O3S2
reactant | 4-hydroxybenzoic acid | 2.38 mmol, 0.328 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
solvent | NMP | 11.7 mL | CN1CCCC1=O | C5H9NO
product | 2,5-bis[(2-cyanoethyl)sulfanyl]-N-(p-hydroxybenzoyl)-N′-(p-nitrobenzoyl)-p-phenylenediamine | yield of 76.3% | C(#N)CCSC1=C(C=C(C(=C1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)SCCC#N)NC(C1=CC=C(C=C1)O)=O | C26H21N5O5S2
